US04313949
3-Benzoyl-2-(N,N-dimethylamino)-phenylacetamide
A solution of 12.7 g (0.05 mol) of 2-amino-3-benzoyl-phenylacetamide in 150 ml of acetonitrile is treated four times with 16 ml (0.2 mole) of 37% formalin, 6.4 g (0.1 mole) of sodium cyanoborohydride and 2 ml of glacial acetic acid with a 15 minute stirring period between each treatment. The mixture is finally poured into dilute sodium hydroxide and extracted three times with diethylether. The ether extracts are combined, dried over magnesium sulfate and concentrated. The product is isolated by column chromatography.

reactant | 2-amino-3-benzoyl-phenylacetamide | 0.05 mol, 12.7 g | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)N | C15H14N2O2
reactant | formalin | 0.2 mole, 16 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.1 mole, 6.4 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 3-Benzoyl-2-(N,N-dimethylamino)-phenylacetamide | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1)CC(=O)N)N(C)C | C17H18N2O2
